US06150377
11B. 6-[(4-Chloro-phenyl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-[3-(4-hydroxy-but-1-ynyl)-phenyl]-1-methyl-1H-quinolin-2-one
2-Mercapto-1-methylimidazole (400 mg, 3.50 mmol) was dissolved in anhydrous THF (7.0 mL) under a stream of dry N2. The solution was then cooled to -78° C. and a solution of 2.8 mL of a 2.5M solution of n-butyllithium in hexanes was then added. After the addition was complete, the reaction mixture was warmed to ambient temperature and stirred at this temperature for 1 hour. The reaction mixture was then cooled to -78° C. and a solution of (4-chloro-benzoyl)-1-methyl-4-[3-(4-trityloxy-but-1-ynyl)-phenyl]-1H-quinolin-2-one in THF (7.0 mL) was added to the mixture. The reaction was warmed to ambient temperature and stirred overnight. The reaction mixture was quenched with saturated aqueous NH4Cl (25 mL) and partitioned between DCM and water. The DCM layer was dried over Na2SO4, filtered and concentrated under vacuum to give a green solid. The green solid was dissolved in 30 mL of acetic acid (ACOH) and the solution was cooled to about 5° C. To this solution was added 2.0 mL of 30% aqueous hydrogen peroxide (H2O2) dropwise. After the addition was complete, the reaction mixture was stirred at ambient temperature for 30 minutes. The reaction mixture was then cooled to 0° C., 200 mL of water was added and the reaction was basified to pH32 10 with the slow addition of NaOH. Sodium sulfite was added portionwise until testing with starch-iodine paper showed no H2O2 left. The reaction mixture was partitioned between 0CM and water. The DCM layer was dried over Na2SO4, filtered and concentrated under vacuum to give a green solid. The green solid was dissolved in a solution of MeOH/DCM (25;3) to which was added 3N aqueous HCl (3.0 mL). The solution was then heated to 68° C. and reacted at this temperature for 2 hours. The solution was concentrated under vacuum to a thick sludge and then was partitioned between DCM and 0.01N aqueous NaOH. The DCM layer was concentrated under vacuum and chromatographed on flash silica gel eluting with a gradient of MeOH/EtOAc/NH4OH (5:95:.01) to MeOH/EtOAc/NH4OH (10:90:.01) to give the titled compound.

reactant | 2-Mercapto-1-methylimidazole | 3.50 mmol, 400 mg | SC=1N(C=CN1)C | C4H6N2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | (4-chloro-benzoyl)-1-methyl-4-[3-(4-trityloxy-but-1-ynyl)-phenyl]-1H-quinolin-2-one | ClC1=CC=C(C(=O)C=2C(N(C3=CC=CC=C3C2C2=CC(=CC=C2)C#CCCOC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C)=O)C=C1 | C46H34ClNO3
reactant | hydrogen peroxide | 2.0 mL | OO | H2O2
reactant | NaOH | [OH-].[Na+]
reactant | Sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 3N, 3.0 mL | Cl | ClH
reactant | THF | 7.0 mL | C1CCOC1 | C4H8O
reactant | THF | 7.0 mL | C1CCOC1 | C4H8O
solvent | N2 | N#N | N2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | MeOH DCM | CO.C(Cl)Cl
solvent | water | 200 mL | O | H2O
product | 6-[(4-Chloro-phenyl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-[3-(4-hydroxy-but-1-ynyl)-phenyl]-1-methyl-1H-quinolin-2-one | ClC1=CC=C(C=C1)C(C=1C=C2C(=CC(N(C2=CC1)C)=O)C1=CC(=CC=C1)C#CCCO)(C=1N(C=NC1)C)O | C31H26ClN3O3
